US04424156
Preparation of 1-chloro-2-amino-4-methanesulphonamidobenzene
35.8 g of 4-chloro-1,3-diaminobenzene are stirred thoroughly into 250 ml of water and 50 ml of methanol. 23 ml of methanesulphonyl chloride are added dropwise at 0° C. in the course of about 2 hours; the pH is kept at 4 by dropwise addition of concentrated sodium hydroxide solution. The mixture is subsequently stirred at room temperature for about 2 hours and, if appropriate after diluting with water, the 1-chloro-2-amino-4-methanesulphonamido-benzene which has separated out is then filtered off. It is sufficiently pure for further reactions according to Example 59.

reactant | 4-chloro-1,3-diaminobenzene | 35.8 g | ClC1=C(C=C(C=C1)N)N | C6H7ClN2
reactant | methanol | 50 ml | CO | CH4O
reactant | methanesulphonyl chloride | 23 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 250 ml | O | H2O
product | 1-chloro-2-amino-4-methanesulphonamidobenzene | ClC1=C(C=C(C=C1)NS(=O)(=O)C)N | C7H9ClN2O2S
